US07230098B2
4-(4,4,5,5-Tetramethyl-1,3,2-dioxaborolan-2-yl)aniline (5 g, 22.8 mmol) was dissolved in DCM (100 mL, 0.2 M), triethylamine (15 mL, 5.0 molar equivalent) was added to the mixture. The reaction was stirred at 0° C. for 5 min. 3-chloropropane-1-sulfonyl chloride (4.2 g, 23.0 mmol) was added portion wise. The reaction was stirred at 0° C. for 1 hr and brought gradually to room temperature, heated to reflux at 70° C. for 2 hr. The mixture was cooled to room temperature, diluted with EtOAc and water. The organic layer was washed with brine, dried over MgSO4, filtered, and concentrated. The residue was purified through a silica column to afford 2-[4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)phenyl]isothiazolidine 1,1-dioxide as off-white solid (5.2 g, 70% yield). 1H NMR (400 MHz, DMSO-d6) δ 7.62 (d, 2H), 7.18 (d, 2H), 3.76 (t, 2H), 3.53 (t, 2H), 2.41 (t, 2H), 1.28 (s, 12H).

reactant | 4-(4,4,5,5-Tetramethyl-1,3,2-dioxaborolan-2-yl)aniline | 22.8 mmol, 5 g | CC1(OB(OC1(C)C)C1=CC=C(N)C=C1)C | C12H18BNO2
reactant | triethylamine | 5.0 molar, 15 mL | C(C)N(CC)CC | C6H15N
reactant | 3-chloropropane-1-sulfonyl chloride | 23.0 mmol, 4.2 g | ClCCCS(=O)(=O)Cl | C3H6Cl2O2S
solvent | DCM | 0.2 M, 100 mL | C(Cl)Cl | CH2Cl2
solvent | EtOAc | CCOC(=O)C | C4H8O2
solvent | water | O | H2O
product | 2-[4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)phenyl]isothiazolidine 1,1-dioxide | 5.2 g, 70% yield | CC1(OB(OC1(C)C)C1=CC=C(C=C1)N1S(CCC1)(=O)=O)C | C15H22BNO4S
